US04672066
1-(2,4-dihydroxy-3-propylphenyl)ethanone was allowed to react with 3-(bromomethyl)-2-ethoxybenzoic acid ethyl ester according to the procedure of Example 69 and the product was purified by HPLC to give 3--[(4-acetyl-3-hydroxy-2-propylphenoxy)methyl]-2-ethoxybenzoic acid ethyl ester, the title compound, m.p. 59°-62° in 90% yield.

reactant | 1-(2,4-dihydroxy-3-propylphenyl)ethanone | OC1=C(C=CC(=C1CCC)O)C(C)=O | C11H14O3
reactant | 3-(bromomethyl)-2-ethoxybenzoic acid ethyl ester | C(C)OC(C1=C(C(=CC=C1)CBr)OCC)=O | C12H15BrO3
product | 3--[(4-acetyl-3-hydroxy-2-propylphenoxy)methyl]-2-ethoxybenzoic acid ethyl ester | C(C)OC(C1=C(C(=CC=C1)COC1=C(C(=C(C=C1)C(C)=O)O)CCC)OCC)=O | C23H28O6
